R1 ( net209 net90)  R=5.2E3
T2 ( net90 net112 0 0)  nfet  L=9.95E-6 W=5.93E-6
T3 ( net258 net112 0 0)  nfet  L=9.95E-6 W=5.93E-6
T4 ( net24 net90 net258 0)  nfet  L=9.95E-6 W=5.93E-6
T5 (net151 net220 net220 0) pfet L=7.64E-6 W=5.26E-6
R6 ( net221 net219)  R=5.2E2
T7 ( net219 net76 0 0)  nfet  L=8.11E-6 W=0.47E-6
T8 ( net204 net76 0 0)  nfet  L=8.11E-6 W=0.47E-6
T9 ( vdd! net219 net76 0)  nfet  L=8.11E-6 W=0.47E-6
R10 (net264 net55) R=1.8E3
T11 (net211 net79 net79 0) nfet L=0.49E-6 W=9.26E-6
T12 (net174 net210 net210 0) nfet L=9.09E-6 W=8.29E-6
T13 (net1 net25 net25 0) nfet L=7.93E-6 W=9.94E-6
T14 (net270 net182 net182 0) nfet L=3.27E-6 W=3.51E-6
C15 (net5 net95) C=2.8E-6
C16 (net44 net100) C=3.3E-8
R17 (net221 net223) R=5.2E1
R18 (net37 net134) R=0.2E3
C19 (net11 net83) C=9.3E-10
T20 (net84 net167 net167 0) pfet L=3.64E-6 W=7.27E-6
C21 (net67 net266) C=7.9E-10
T22 (net34 net202 net202 0) pfet L=4.78E-6 W=3.62E-6
C23 (net19 net236) C=4.8E-14
R24 (net15 net270) R=8.5E6
C25 (net265 net95) C=5.1E-9
C26 (net209 net105) C=4.8E-12
C27 (net221 net244) C=9.9E-13
C28 (net139 net17) C=8.7E-9
T29 (net215 net17 net17 0) nfet L=1.81E-6 W=5.46E-6
R30 (net75 net265) R=8.1E1
R31 (net203 net267) R=2.4E0
T32 (net16 net278 net278 0) pfet L=6.88E-6 W=0.12E-6
T33 (net120 net14 net14 0) nfet L=0.37E-6 W=1.13E-6
T34 (vdd! net270 net270 0) pfet L=5.20E-6 W=9.32E-6
R35 (net115 net58) R=5.2E3
T36 (net269 net249 net249 0) nfet L=1.67E-6 W=1.70E-6
C37 (net184 net108) C=7.5E-11
T38 (net214 net162 net162 0) nfet L=4.30E-6 W=2.62E-6
R39 (net160 net248) R=9.3E4
T40 (net62 net169 net169 0) nfet L=2.84E-6 W=6.87E-6
T41 (net195 net130 net130 0) pfet L=4.61E-6 W=8.11E-6
T42 (net62 net275 net275 0) pfet L=3.92E-6 W=6.89E-6
T43 (net29 net218 net218 0) pfet L=2.53E-6 W=9.77E-6
T44 (net77 net12 net12 0) nfet L=2.10E-6 W=9.82E-6
R45 (net265 net173) R=7.8E0
C46 (net70 net234) C=6.4E-14
R47 (net229 net274) R=0.6E6
T48 (net260 net79 net79 0) pfet L=2.36E-6 W=2.82E-6
R49 (net280 net102) R=10.0E6
T50 (net10 net100 net100 0) nfet L=4.41E-6 W=5.07E-6
T51 (net198 net108 net108 0) nfet L=9.86E-6 W=8.90E-6
C52 (net203 net157) C=8.7E-8
C53 (net240 0) C=7.3E-6
T54 (net128 net150 net150 0) nfet L=5.22E-6 W=2.50E-6
T55 (net113 net136 net136 0) nfet L=8.89E-6 W=8.86E-6
T56 (0 net163 net163 0) pfet L=5.95E-6 W=7.75E-6
C57 (net91 net149) C=7.6E-9
C58 (net123 net275) C=7.9E-6
T59 (net60 net274 net274 0) pfet L=9.11E-6 W=9.28E-6
R60 (net145 net60) R=4.6E1
T61 (vdd! net229 net229 0) nfet L=6.70E-6 W=1.49E-6
R62 (net5 net197) R=9.5E5
T63 (net131 net261 net261 0) nfet L=4.45E-6 W=1.97E-6
C64 (net233 net203) C=6.0E-7
R65 (net84 net139) R=7.0E2
C66 (net103 net242) C=0.2E-5
R67 (net180 net148) R=4.0E1
T68 (net166 net209 net209 0) nfet L=0.65E-6 W=8.57E-6
T69 (net171 net47 net47 0) nfet L=4.57E-6 W=2.62E-6
C70 (net71 net93) C=10.0E-13
R71 (net162 net26) R=3.5E0
R72 (net250 net104) R=4.7E0
T73 (net102 net153 net153 0) nfet L=2.66E-6 W=1.75E-6
C74 (0 net151) C=2.4E-7
R75 (vdd! net36) R=4.2E3
T76 (net117 net265 net265 0) nfet L=3.84E-6 W=9.23E-6
R77 (net221 net53) R=1.6E3
T78 (net152 net69 net69 0) pfet L=2.82E-6 W=0.90E-6
T79 (net40 net32 net32 0) pfet L=2.43E-6 W=4.70E-6
R80 (net42 net280) R=2.8E0
T81 (net141 net138 net138 0) nfet L=4.79E-6 W=0.49E-6
T82 (net130 net48 net48 0) nfet L=6.39E-6 W=0.80E-6
R83 (net50 net142) R=1.0E0
C84 (vdd! net260) C=8.9E-13
T85 (net212 net85 net85 0) pfet L=9.99E-6 W=6.11E-6
R86 (net87 0) R=2.6E3
R87 (net137 net141) R=2.1E3
T88 (net270 net254 net254 0) nfet L=9.18E-6 W=6.81E-6
T89 (0 net4 net4 0) nfet L=1.90E-6 W=8.72E-6
T90 (net208 net91 net91 0) pfet L=7.65E-6 W=3.52E-6
R91 (net6 net71) R=7.6E0
T92 (net262 net3 net3 0) nfet L=3.50E-6 W=9.09E-6
R93 (net139 net206) R=8.2E3
C94 (net145 net40) C=9.8E-12
T95 (net21 net191 net191 0) pfet L=8.14E-6 W=4.11E-6
T96 (net277 net272 net272 0) nfet L=6.29E-6 W=1.69E-6
T97 (net8 net186 net186 0) nfet L=9.34E-6 W=6.00E-6
T98 (0 net3 net3 0) pfet L=9.03E-6 W=6.36E-6
T99 (net44 net48 net48 0) pfet L=3.46E-6 W=2.37E-6
C100 (0 net193) C=5.8E-10
T101 (net84 net123 net123 0) nfet L=4.51E-6 W=5.89E-6
C102 (net84 net7) C=3.2E-8
R103 (net172 net98) R=1.1E1
T104 (net222 0 0 0) pfet L=0.95E-6 W=7.15E-6
R105 (0 net261) R=9.4E5
R106 (net41 net43) R=6.6E2
R107 (net264 net8) R=7.0E6
R108 (0 net1) R=9.1E3
C109 (net79 net158) C=2.3E-9
R110 (net140 net74) R=5.8E3
C111 (vdd! net66) C=0.8E-13
C112 (net179 net261) C=9.3E-13
T113 (net82 net28 net28 0) nfet L=3.29E-6 W=4.87E-6
T114 (net227 net126 net126 0) nfet L=5.19E-6 W=2.03E-6
T115 (net40 net217 net217 0) pfet L=9.37E-6 W=8.77E-6
R116 (net49 net150) R=5.6E6
R117 (net208 net47) R=4.9E0
T118 (net57 net236 net236 0) pfet L=4.01E-6 W=1.87E-6
T119 (net274 net67 net67 0) pfet L=2.36E-6 W=5.22E-6
R120 (net248 net168) R=9.7E4
R121 (net27 net275) R=9.6E3
T122 (net215 net169 net169 0) nfet L=2.84E-6 W=2.53E-6
T123 (net117 net2 net2 0) nfet L=1.02E-6 W=8.18E-6
C124 (net158 net207) C=4.2E-14
C125 (net243 net253) C=3.6E-11
R126 (net216 net159) R=3.1E5
T127 (net183 net252 net252 0) nfet L=3.62E-6 W=6.40E-6
R128 (net211 0) R=9.6E5
C129 (net109 net96) C=4.7E-7
R130 (net176 net152) R=0.6E6
T131 (net117 net88 net88 0) pfet L=3.91E-6 W=1.00E-6
C132 (net93 net99) C=4.1E-13
R133 (net105 vdd!) R=8.6E6
T134 (net164 net180 net180 0) pfet L=6.83E-6 W=4.88E-6
R135 (net97 net238) R=0.9E3
R136 (net164 net229) R=1.8E0
C137 (net238 net260) C=9.1E-13
T138 (net50 net205 net205 0) pfet L=6.30E-6 W=2.67E-6
C139 (net51 net251) C=1.4E-6
T140 (net26 net235 net235 0) pfet L=6.68E-6 W=9.46E-6
T141 (net121 net201 net201 0) nfet L=6.24E-6 W=1.91E-6
T142 (vdd! net256 net256 0) nfet L=7.46E-6 W=7.29E-6
R143 (net60 net203) R=8.4E6
C144 (net47 net229) C=3.8E-9
T145 (net13 net74 net74 0) pfet L=0.17E-6 W=2.32E-6
T146 (net9 net203 net203 0) pfet L=1.33E-6 W=2.17E-6
C147 (net149 net72) C=1.7E-12
T148 (net29 net86 net86 0) pfet L=2.29E-6 W=9.01E-6
C149 (net146 net274) C=0.8E-10
C150 (net140 net70) C=2.7E-13
T151 (net260 net275 net275 0) pfet L=7.87E-6 W=5.97E-6
T152 (net145 0 0 0) pfet L=7.01E-6 W=6.03E-6
T153 (net154 net145 net145 0) nfet L=0.73E-6 W=4.92E-6
C154 (net54 net157) C=2.7E-9
T155 (net250 net166 net166 0) pfet L=0.26E-6 W=8.66E-6
T156 (net92 net75 net75 0) nfet L=5.26E-6 W=6.30E-6
C157 (net116 net60) C=9.2E-11
T158 (net80 vdd! vdd! 0) nfet L=0.44E-6 W=0.85E-6
C159 (net231 net47) C=3.6E-8
T160 (net13 vdd! vdd! 0) nfet L=2.42E-6 W=6.65E-6
T161 (net78 net267 net267 0) pfet L=2.17E-6 W=8.01E-6
C162 (net224 net181) C=7.7E-12
C163 (net65 net46) C=1.9E-7
R164 (net162 vdd!) R=0.7E6
T165 (net221 net232 net232 0) pfet L=6.86E-6 W=5.52E-6
T166 (net113 net206 net206 0) nfet L=4.82E-6 W=2.69E-6
T167 (net25 net183 net183 0) nfet L=8.50E-6 W=1.95E-6
T168 (net275 net192 net192 0) nfet L=9.55E-6 W=8.79E-6
T169 (net34 net132 net132 0) nfet L=5.33E-6 W=2.94E-6
T170 (net239 net29 net29 0) pfet L=4.16E-6 W=8.36E-6
T171 (net150 0 0 0) pfet L=6.35E-6 W=8.25E-6
T172 (net167 net160 net160 0) nfet L=4.77E-6 W=7.63E-6
R173 (net197 net99) R=4.5E2
C174 (net181 net280) C=7.4E-13
R175 (net15 net122) R=1.4E2
R176 (net83 net69) R=6.3E0
R177 (net213 net163) R=5.2E1
T178 (net174 net78 net78 0) nfet L=2.97E-6 W=1.35E-6
R179 (net273 net172) R=9.5E3
R180 (net77 net68) R=9.1E6
T181 (net268 net222 net222 0) pfet L=3.93E-6 W=6.33E-6
T182 (net186 net277 net277 0) nfet L=9.56E-6 W=3.79E-6
C183 (net250 net63) C=6.8E-13
T184 (net273 net48 net48 0) nfet L=1.55E-6 W=1.71E-6
T185 (net113 net255 net255 0) nfet L=3.62E-6 W=2.98E-6
R186 (net246 0) R=5.7E6
T187 (net93 net147 net147 0) pfet L=4.86E-6 W=3.38E-6
R188 (net55 net119) R=5.7E0
C189 (0 net273) C=5.2E-13
R190 (net39 net67) R=10.0E4
T191 (vdd! vdd! vdd! 0) pfet L=8.40E-6 W=3.84E-6
T192 (net30 net225 net225 0) nfet L=3.36E-6 W=6.70E-6
R193 (net14 net54) R=3.5E3
C194 (net36 net50) C=4.1E-9
T195 (net273 net202 net202 0) pfet L=4.11E-6 W=6.75E-6
R196 (net129 net152) R=0.1E3
C197 (net92 net217) C=0.4E-13
C198 (net119 net20) C=1.5E-5
R199 (net246 net148) R=7.7E0
C200 (0 net181) C=9.4E-5
T201 (net213 net5 net5 0) pfet L=8.12E-6 W=9.81E-6
T202 (net92 net247 net247 0) pfet L=9.38E-6 W=4.52E-6
C203 (net139 net237) C=4.5E-5
C204 (net185 net107) C=4.2E-6
T205 (net236 net117 net117 0) pfet L=2.40E-6 W=1.54E-6
C206 (net99 net133) C=9.7E-8
T207 (net204 net264 net264 0) nfet L=6.75E-6 W=9.90E-6
R208 (net29 net204) R=9.3E3
T209 (net269 net273 net273 0) pfet L=8.39E-6 W=6.60E-6
R210 (net144 net1) R=5.2E5
C211 (vdd! net138) C=3.7E-6
C212 (net218 net184) C=1.6E-12
C213 (net198 net107) C=9.7E-7
T214 (net40 net54 net54 0) pfet L=3.81E-6 W=9.57E-6
T215 (net75 net77 net77 0) nfet L=2.41E-6 W=7.49E-6
T216 (net212 net154 net154 0) nfet L=2.12E-6 W=5.45E-6
C217 (net106 net69) C=8.8E-7
T218 (net254 net214 net214 0) nfet L=9.54E-6 W=1.25E-6
C219 (net13 net226) C=4.1E-10
R220 (net98 net162) R=8.9E2
R221 (net53 net129) R=6.7E5
T222 (net160 net185 net185 0) nfet L=6.87E-6 W=3.94E-6
T223 (net176 net95 net95 0) nfet L=1.33E-6 W=8.45E-6
R224 (net121 net201) R=7.5E4
R225 (net141 net197) R=8.1E5
R226 (net272 net167) R=8.8E2
T227 (net4 net230 net230 0) nfet L=3.27E-6 W=5.67E-6
T228 (net16 net26 net26 0) nfet L=4.83E-6 W=6.86E-6
R229 (net262 net123) R=3.7E0
R230 (net238 net267) R=6.4E3
T231 (net141 net104 net104 0) nfet L=7.83E-6 W=4.97E-6
T232 (net95 net49 net49 0) nfet L=0.47E-6 W=5.22E-6
R233 (net140 net52) R=2.8E5
C234 (net138 net233) C=5.3E-9
C235 (net43 net257) C=8.7E-13
R236 (net211 net278) R=5.1E1
C237 (net29 net98) C=8.9E-11
C238 (net270 net73) C=0.4E-13
C239 (net136 net30) C=4.7E-14
T240 (net49 net261 net261 0) nfet L=4.90E-6 W=8.33E-6
R241 (net176 net202) R=6.2E6
T242 (net241 net127 net127 0) nfet L=2.35E-6 W=5.49E-6
T243 (net154 net50 net50 0) nfet L=7.95E-6 W=1.64E-6
T244 (net21 net103 net103 0) pfet L=2.71E-6 W=9.41E-6
T245 (net147 net186 net186 0) nfet L=1.65E-6 W=0.88E-6
R246 (net54 net100) R=0.4E5
R247 (net274 net21) R=1.6E6
T248 (net24 net143 net143 0) nfet L=2.99E-6 W=6.59E-6
T249 (net82 net107 net107 0) nfet L=0.76E-6 W=4.71E-6
R250 (net124 0) R=0.2E5
T251 (net166 net209 net209 0) nfet L=2.67E-6 W=6.20E-6
T252 (net184 net12 net12 0) nfet L=9.59E-6 W=0.12E-6
R253 (net10 net43) R=0.5E1
T254 (net106 net241 net241 0) nfet L=5.31E-6 W=7.40E-6
R255 (net93 vdd!) R=6.5E1
T256 (vdd! net137 net137 0) pfet L=2.12E-6 W=5.19E-6
T257 (net105 net62 net62 0) pfet L=6.64E-6 W=7.75E-6
C258 (net210 net280) C=2.6E-6
T259 (net6 net204 net204 0) pfet L=1.78E-6 W=4.40E-6
R260 (net39 net181) R=7.5E5
C261 (vdd! net102) C=9.8E-5
T262 (net173 net269 net269 0) pfet L=8.68E-6 W=1.74E-6
R263 (net158 net232) R=7.2E5
T264 (net32 net9 net9 0) nfet L=2.25E-6 W=7.98E-6
T265 (net15 net114 net114 0) pfet L=6.85E-6 W=9.89E-6
T266 (net71 net190 net190 0) pfet L=2.13E-6 W=7.47E-6
C267 (net23 vdd!) C=0.4E-9
C268 (net160 net125) C=2.2E-11
T269 (net127 net129 net129 0) pfet L=9.87E-6 W=9.70E-6
T270 (net264 net245 net245 0) nfet L=9.41E-6 W=9.12E-6
T271 (net228 net187 net187 0) nfet L=3.92E-6 W=4.71E-6
C272 (net109 net261) C=0.6E-14
C273 (net248 net169) C=7.6E-13
T274 (net255 net232 net232 0) nfet L=3.24E-6 W=3.20E-6
T275 (net72 net150 net150 0) pfet L=1.58E-6 W=3.30E-6
T276 (net117 net12 net12 0) pfet L=2.33E-6 W=6.96E-6
R277 (net103 net1) R=1.0E3
T278 (net98 net79 net79 0) pfet L=7.78E-6 W=6.75E-6
C279 (net23 net198) C=2.2E-8
R280 (vdd! net153) R=9.9E6
C281 (net194 net38) C=5.6E-9
T282 (net107 net84 net84 0) pfet L=4.94E-6 W=7.64E-6
C283 (net267 net262) C=1.0E-14
C284 (net132 vdd!) C=2.2E-10
T285 (net143 net257 net257 0) pfet L=9.27E-6 W=4.66E-6
T286 (net271 net229 net229 0) nfet L=2.77E-6 W=4.74E-6
T287 (net87 net163 net163 0) pfet L=7.13E-6 W=5.24E-6
T288 (net245 net31 net31 0) pfet L=5.21E-6 W=2.23E-6
T289 (net73 net123 net123 0) nfet L=1.35E-6 W=1.84E-6
R290 (net26 0) R=6.0E2
T291 (net131 net169 net169 0) nfet L=0.80E-6 W=4.68E-6
R292 (net7 net62) R=1.5E2
T293 (net143 vdd! vdd! 0) nfet L=3.86E-6 W=9.01E-6
C294 (net68 net25) C=3.8E-12
R295 (net8 net148) R=6.9E0
T296 (net235 0 0 0) pfet L=7.12E-6 W=7.03E-6
C297 (net37 net137) C=3.8E-7
T298 (net156 net124 net124 0) pfet L=3.15E-6 W=10.00E-6
C299 (net261 net30) C=8.8E-5
R300 (net243 net113) R=9.0E0
R301 (net69 net187) R=0.3E0
T302 (net104 0 0 0) pfet L=1.65E-6 W=1.66E-6
T303 (net15 net270 net270 0) nfet L=9.21E-6 W=9.85E-6
T304 (vdd! net152 net152 0) nfet L=6.12E-6 W=0.18E-6
C305 (vdd! net177) C=6.7E-12
R306 (net127 net180) R=6.2E0
T307 (net73 net74 net74 0) nfet L=0.96E-6 W=2.85E-6
T308 (net162 net49 net49 0) pfet L=5.63E-6 W=8.12E-6
C309 (vdd! net140) C=6.0E-14
R310 (net145 net85) R=7.2E3
T311 (net186 net9 net9 0) nfet L=1.02E-6 W=2.98E-6
T312 (net1 net49 net49 0) pfet L=2.15E-6 W=9.74E-6
C313 (net33 net142) C=2.7E-9
T314 (net264 net24 net24 0) nfet L=0.55E-6 W=1.29E-6
T315 (net131 net113 net113 0) nfet L=4.69E-6 W=5.63E-6
R316 (net198 net46) R=6.1E3
C317 (net164 net153) C=5.0E-7
R318 (net225 net125) R=7.3E1
T319 (net74 net80 net80 0) pfet L=0.58E-6 W=1.64E-6
C320 (net193 net205) C=1.9E-8
T321 (net190 net154 net154 0) pfet L=6.68E-6 W=0.75E-6
T322 (net161 net241 net241 0) nfet L=4.33E-6 W=9.79E-6
T323 (net104 net192 net192 0) nfet L=7.72E-6 W=8.87E-6
T324 (net72 net34 net34 0) pfet L=2.60E-6 W=4.02E-6
C325 (net83 net81) C=4.2E-5
C326 (net206 net175) C=2.9E-10
R327 (vdd! net8) R=3.9E2
T328 (net274 vdd! vdd! 0) pfet L=2.78E-6 W=5.19E-6
T329 (net40 net110 net110 0) nfet L=6.19E-6 W=1.48E-6
C330 (net193 net153) C=5.0E-11
C331 (net136 net46) C=5.4E-14
R332 (net56 net242) R=5.1E4
R333 (net103 vdd!) R=8.3E3
T334 (net150 net15 net15 0) nfet L=1.46E-6 W=1.17E-6
T335 (net71 net248 net248 0) nfet L=3.49E-6 W=1.24E-6
C336 (net156 net184) C=3.8E-11
T337 (net275 net237 net237 0) pfet L=4.33E-6 W=1.32E-6
T338 (net48 net255 net255 0) pfet L=4.53E-6 W=2.70E-6
C339 (net108 net34) C=9.2E-7
T340 (net161 net13 net13 0) nfet L=1.99E-6 W=5.32E-6
T341 (net203 net166 net166 0) nfet L=6.64E-6 W=0.49E-6
R342 (net155 net129) R=4.3E1
T343 (net78 net105 net105 0) nfet L=6.78E-6 W=3.02E-6
T344 (net2 net52 net52 0) pfet L=9.38E-6 W=4.92E-6
C345 (net187 net82) C=1.5E-8
C346 (net213 net205) C=7.1E-10
C347 (net279 net105) C=2.9E-6
T348 (net121 net39 net39 0) pfet L=8.60E-6 W=6.26E-6
T349 (net70 net273 net273 0) nfet L=8.01E-6 W=4.16E-6
T350 (net235 net154 net154 0) nfet L=7.23E-6 W=2.24E-6
R351 (net1 net159) R=8.6E2
T352 (net56 net32 net32 0) nfet L=8.06E-6 W=3.85E-6
R353 (net209 net190) R=3.0E3
T354 (net58 net95 net95 0) nfet L=9.29E-6 W=5.54E-6
C355 (net249 net19) C=8.8E-11
R356 (net67 net45) R=0.2E0
T357 (net138 vdd! vdd! 0) nfet L=1.44E-6 W=0.24E-6
R358 (net249 net105) R=3.3E5
C359 (net110 net54) C=4.9E-8
C360 (net182 0) C=0.9E-14
T361 (net215 net268 net268 0) nfet L=7.68E-6 W=9.16E-6
C362 (net136 net171) C=4.3E-7
T363 (net187 net255 net255 0) pfet L=7.99E-6 W=0.22E-6
T364 (net247 net177 net177 0) nfet L=8.31E-6 W=9.83E-6
R365 (net274 0) R=4.5E1
C366 (0 net51) C=6.4E-11
R367 (net64 net102) R=0.3E1
C368 (net228 net199) C=8.3E-11
T369 (net215 net231 net231 0) nfet L=8.09E-6 W=6.97E-6
T370 (net227 net236 net236 0) pfet L=3.39E-6 W=3.40E-6
C371 (net170 net3) C=1.9E-8
T372 (net107 net261 net261 0) pfet L=9.15E-6 W=9.43E-6
C373 (net242 net273) C=4.3E-11
C374 (net190 net181) C=1.8E-13
T375 (net156 net17 net17 0) pfet L=7.34E-6 W=5.64E-6
R376 (net277 net20) R=0.8E0
R377 (net194 net153) R=2.7E3
C378 (net238 net1) C=7.5E-10
C379 (net135 net164) C=0.8E-12
R380 (net221 vdd!) R=7.4E3
T381 (vdd! net48 net48 0) pfet L=2.07E-6 W=3.21E-6
C382 (net72 net241) C=2.4E-8
C383 (net232 net102) C=6.3E-10
T384 (net184 net131 net131 0) pfet L=2.56E-6 W=5.95E-6
T385 (net176 net179 net179 0) nfet L=9.87E-6 W=2.01E-6
C386 (vdd! net211) C=5.7E-9
T387 (net158 vdd! vdd! 0) nfet L=3.95E-6 W=9.07E-6
R388 (net271 net5) R=6.9E5
T389 (net124 net203 net203 0) pfet L=7.27E-6 W=2.11E-6
T390 (net30 net155 net155 0) pfet L=7.04E-6 W=7.85E-6
C391 (net2 net183) C=6.3E-14
C392 (net44 vdd!) C=1.3E-13
R393 (net270 0) R=1.4E1
C394 (net125 net7) C=2.9E-13
C395 (net170 net84) C=2.1E-10
T396 (net45 net251 net251 0) pfet L=0.47E-6 W=5.26E-6
R397 (net109 net228) R=6.1E2
R398 (0 net71) R=4.2E2
C399 (net135 net57) C=9.0E-9
R400 (net243 0) R=8.7E1
T401 (net249 net31 net31 0) nfet L=9.16E-6 W=9.59E-6
T402 (net177 net189 net189 0) nfet L=5.29E-6 W=1.35E-6
R403 (vdd! net205) R=5.9E2
R404 (net267 0) R=7.4E5
T405 (net26 net134 net134 0) pfet L=5.98E-6 W=3.91E-6
R406 (net78 vdd!) R=5.1E3
T407 (net109 net34 net34 0) nfet L=9.89E-6 W=0.36E-6
C408 (net56 net205) C=4.8E-11
R409 (net35 net4) R=1.3E4
T410 (0 net109 net109 0) nfet L=9.59E-6 W=4.47E-6
C411 (net137 net143) C=8.7E-11
T412 (net42 net139 net139 0) pfet L=5.51E-6 W=5.98E-6
R413 (net39 net131) R=2.1E3
T414 (net209 net86 net86 0) nfet L=4.45E-6 W=5.32E-6
C415 (net264 net41) C=8.1E-10
C416 (net18 net123) C=5.0E-9
R417 (net165 net245) R=4.0E5
T418 (net56 net74 net74 0) nfet L=4.46E-6 W=5.10E-6
T419 (net41 vdd! vdd! 0) pfet L=5.40E-6 W=9.10E-6
C420 (net58 net230) C=3.5E-5
T421 (net33 net15 net15 0) nfet L=3.04E-6 W=2.88E-6
R422 (net107 net8) R=1.8E5
R423 (net31 net131) R=7.6E3
T424 (net195 net43 net43 0) nfet L=4.53E-6 W=7.09E-6
T425 (net278 net171 net171 0) nfet L=7.48E-6 W=8.68E-6
T426 (net190 net96 net96 0) pfet L=2.96E-6 W=5.50E-6
T427 (net122 net114 net114 0) nfet L=4.43E-6 W=6.26E-6
T428 (net53 net60 net60 0) pfet L=1.54E-6 W=6.43E-6
T429 (net135 net150 net150 0) pfet L=5.95E-6 W=9.78E-6
T430 (net269 net170 net170 0) nfet L=7.17E-6 W=7.54E-6
T431 (net249 net96 net96 0) nfet L=4.90E-6 W=4.29E-6
T432 (net33 net197 net197 0) nfet L=5.27E-6 W=2.57E-6
T433 (net206 net216 net216 0) nfet L=6.39E-6 W=9.71E-6
T434 (net96 net98 net98 0) nfet L=4.06E-6 W=7.35E-6
R435 (net269 net245) R=6.2E2
T436 (net33 net64 net64 0) pfet L=0.11E-6 W=2.30E-6
T437 (net255 net173 net173 0) pfet L=6.40E-6 W=1.66E-6
R438 (net46 net96) R=3.8E2
R439 (net18 net203) R=8.9E2
C440 (net259 net25) C=3.1E-13
R441 (net235 net265) R=5.8E0
T442 (net71 net73 net73 0) pfet L=6.98E-6 W=8.44E-6
T443 (net151 net157 net157 0) pfet L=6.18E-6 W=5.00E-6
T444 (net23 net259 net259 0) pfet L=4.37E-6 W=5.26E-6
R445 (net8 net169) R=7.3E6
T446 (net150 net156 net156 0) nfet L=5.53E-6 W=7.11E-6
T447 (net152 net184 net184 0) pfet L=3.77E-6 W=1.48E-6
T448 (net130 net7 net7 0) nfet L=8.24E-6 W=2.10E-6
R449 (net105 net63) R=2.3E6
R450 (net174 net117) R=7.4E5
C451 (net244 net93) C=7.8E-5
T452 (net99 net25 net25 0) nfet L=7.35E-6 W=5.44E-6

